US08236806B2
1-phenyl-4-(3-(1-phenyl-3-butyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 178)
100 mg (80%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-3-butyl-1H-pyrazol-5-yl)propanal (80 mg, 0.312 mmol), 1-phenylpiperazine (0.047 mL, 0.312 mmol), DIPEA (0.081 mL, 0.468 mmol) and NaBH(OAc)3 (198 mg, 0.936 mmol).

reactant | 3-(1-phenyl-3-butyl-1H-pyrazol-5-yl)propanal | 0.312 mmol, 80 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC=O)CCCC | C16H20N2O
reactant | 1-phenylpiperazine | 0.312 mmol, 0.047 mL | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DIPEA | 0.468 mmol, 0.081 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.936 mmol, 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-phenyl-4-(3-(1-phenyl-3-butyl-1H-pyrazol-5-yl)propyl)piperazine | C1(=CC=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC=CC=C1)CCCC | C26H34N4
